US05405865
2-trifluoromethyl-3-furanmethanol.
210 ml of chloroacetaldehyde were added over 30 minutes at 20° C. to 36.5 ml of ethyl 4,4,4-trifluoroacetoacetate in 600 ml of pyridine and the mixture was stirred for 52 hours. The reaction mixture was poured into 650 ml of concentrated hydrochloric acid and ice, stirred for 5 minutes and extracted with isopropyl ether. The extract was dried and the solvent was evaporated to obtain after chromatography on silica (eluent: 7/3 hexane/ethyl acetate), 43 g of the expected product.

reactant | chloroacetaldehyde | 210 ml | ClCC=O | C2H3ClO
reactant | ethyl 4,4,4-trifluoroacetoacetate | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | hydrochloric acid | 650 ml | Cl | ClH
solvent | pyridine | 600 ml | N1=CC=CC=C1 | C5H5N
product | 2-trifluoromethyl-3-furanmethanol | 43 g | FC(C=1OC=CC1CO)(F)F | C6H5F3O2
